US03974223
A 12-liter reaction flask fitted as previously described was charged with 2280 ml (2477 g) of the initial filtrate from the above described reaction. With stirring, the reaction flask was charged with 106.5 g (0.76 mole) of hexamethylenetetramine. As the amine dissolved, there was a small exothermic response. To this solution was added 179.6 g (0.76 mole) of 3,5-ditert.butyl-4-hydroxybenzyl alcohol. There was no apparent reaction and when external heating had increased the pot temperature to 65°-70° , the slurry formed a clear solution. With controlled heating, reflux (108°) was attained after 1.25 hours with product precipitation and gas evolution recorded beginning at 104°. After two hours at reflux, the reaction mixture was cooled to 25°. The product was separated from the mother liquor and washed as described above. After drying in the vacuum oven, there was obtained 164 g of light yellow crystalline 3,5-ditert.butyl-4-hydroxybenzaldehyde, m.p. 191°-93°. The product was submitted for GLC analysis and found to be equivalent to the analytical standard (100%). The yield was 92.1%.

reactant | hexamethylenetetramine | 0.76 mole, 106.5 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 3,5-ditert.butyl-4-hydroxybenzyl alcohol | 0.76 mole, 179.6 g | C(C)(C)(C)C=1C=C(CO)C=C(C1O)C(C)(C)C | C15H24O2
product | 3,5-ditert.butyl-4-hydroxybenzaldehyde | 164 g, yield was 92.1% | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
